US07919506B2
N-(2-(1-methoxy-2,2-dimethylpropyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine
The title compound was prepared in an analogous manner to that described for the preparation of (3,5-bis-trifluoromethyl-benzyl)-[2-(cyclobutyl-ethoxy-methyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)amine from 2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde by the addition of tert-butylmagnesium chloride followed by O-methylation with methyl iodide.

reactant | (3,5-bis-trifluoromethyl-benzyl)-[2-(cyclobutyl-ethoxy-methyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)amine | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(OCC)C2CCC2)C=C(C1)C(F)(F)F)(F)F | C26H26F9N5O
reactant | 2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C20H14F9N5O
reactant | tert-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | methyl iodide | CI | CH3I
product | N-(2-(1-methoxy-2,2-dimethylpropyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | COC(C(C)(C)C)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C25H26F9N5O
